US08084448B2
A. Acetic Acid 4-phenylsulfanylbutylester
To a suspension of NaH (60%, 0.91 g, 23 mmol) in anhydrous DMF (20 mL) at RT is added dropwise benzenethiol (2.5 g, 22.7 mmol) in DMF (5 mL). The mixture is stirred for 10-15 min, at which time it becomes clear and yellow. The mixture is cooled to 0° C. in an ice bath then 4-bromobutylacetate (4.5 g, 22.8 mmol) in DMF (5 mL) is added dropwise and the mixture is stirred at RT for 1 h. The mixture is poured into 1N HCl (50 mL) and extracted with MTBE (2×). The combined organic extracts are washed with brine (2×) and dried over MgSO4. The solvent is removed under reduced pressure to afford the title compound as a yellow oil.

reactant | NaH | 23 mmol, 0.91 g | [H-].[Na+]
reactant | benzenethiol | 22.7 mmol, 2.5 g | C1(=CC=CC=C1)S | C6H6S
reactant | 4-bromobutylacetate | 22.8 mmol, 4.5 g | BrCCCCOC(C)=O | C6H11BrO2
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Acetic Acid 4-phenylsulfanylbutylester | C1(=CC=CC=C1)SCCCCOC(C)=O | C12H16O2S
